US07906652B2
Ethyl 3-(1-{1-[(4-cyanophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoate
Prepared from ethyl 3-(1-azetidin-3-yl-2-fluoro-2-methylpropyl)-5-fluorobenzoate and 3-[bromo(4-cyanophenyl)methyl]benzonitrile as described in Preparation 17, Part 5; Mass Spectrum: m/e=514.

reactant | ethyl 3-(1-azetidin-3-yl-2-fluoro-2-methylpropyl)-5-fluorobenzoate | N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)OCC)C=C(C1)F | C16H21F2NO2
reactant | 3-[bromo(4-cyanophenyl)methyl]benzonitrile | BrC(C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)C#N | C15H9BrN2
product | Ethyl 3-(1-{1-[(4-cyanophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoate | C(#N)C1=CC=C(C=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)OCC)C=C(C1)F)C1=CC(=CC=C1)C#N | C31H29F2N3O2
